US07754737B2
Ethyl nipecotate (1.55 mL, 10 mmol), (Boc)2O (2.4 g, 1.1 equiv), triethylamine (2.8 mL, 2.1 equiv) and dichloromethane (70 mL) were mixed and stirred overnight at rt. The reaction mixture was diluted with EtOAc (200 mL), washed with 5% aq HCl (2×25 mL), sat'd aq NaHCO3 (30 mL) and brine (20 mL), and dried over Na2SO4. After concentration, the crude product was purified by chromatography on a 40-g silica cartridge eluted with a 0-30% EtOAc in hexanes gradient to afford 1-tert-butyl 3-ethyl piperidine-1,3-dicarboxylate (2.61 g, 100%) as a clear oil.

reactant | Ethyl nipecotate | 10 mmol, 1.55 mL | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | (Boc)2O | 2.4 g, 1.1 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 2.8 mL, 2.1 equiv | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 1-tert-butyl 3-ethyl piperidine-1,3-dicarboxylate | 2.61 g, 100% | N1(CC(CCC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
